US05098984
Particularly preferred isocyanates are hexamethylene diisocyanate; 1,12-dodecane diisocyanate; cyclobutane-1,3-diisocyanate; cyclohexane-1,3- and -1,4-diisocyanate and mixtures of these isomers; 1-isocyanato-3,3,5-trimethyl-5-isocyanatomethyl cyclohexane; hexahydro-1,3- and/or -1,4-phenylene diisocyanate; perhydro-2,4'- and/or -4,4'-diphenylmethane diisocyanate; 1,3- and 1,4-phenylene diisocyanate; 2,4- and 2,6-tolylene diisocyanate and mixtures of these isomers; diphenylmethane-2,4'- and/or -4,4'-diisocyanate; naphthylene-1,5-diisocyanate; triphenylmethane-4,4',4"-triisocyanate; and polyphenyl polymethylene polyisocyanates of the type obtained by phosgenation of aniline-formaldehyde condensates.

reactant | hexamethylene diisocyanate | C(CCCCCN=C=O)N=C=O | C8H12N2O2
reactant | 1-isocyanato-3,3,5-trimethyl-5-isocyanatomethyl cyclohexane | N(=C=O)C1CC(CC(C1)(CN=C=O)C)(C)C | C12H18N2O2
reactant | 1,4-phenylene diisocyanate | C1(=CC=C(C=C1)N=C=O)N=C=O | C8H4N2O2
reactant | 4,4'-diphenylmethane diisocyanate | C1=CC(=CC=C1CC2=CC=C(C=C2)N=C=O)N=C=O | C15H10N2O2
product | aniline-formaldehyde | N(C1=CC=CC=C1)C=O | C7H7NO
